US05286822
Bis(perfluoro-n-butyl) Sulfide/H2O Solvent Tetrafluoroethylene/Ethylene Copolymer Perfluoropropionyl Peroxide Initiation
A 400-ml vessel was loaded with 100 mL of deionized water. The pressure vessel was then chilled and maintained around -20° C. while further loading with 5 ml of 0.036M perfluoropropionyl peroxide in bis(perfluoro-n-butyl) sulfide, pulling the air off with a vacuum pump, adding 14 g of ethylene, and finally adding 50 g of tetrafluoroethylene. Polymerization set in during warm up at 59° C. and 892 psi, pressure continuing to drop to 751 psi at 60° C. about 4 hours later. The product was washed with 200 ml of 1:1 methanol:water, filtered, and dried under vacuum, giving 18.7 g of white powder (29%). Under melt indexer conditions, no melt flow was observed at 297° C. with a 15-kg weight.

reactant | water | 100 mL | O | H2O
reactant | perfluoropropionyl peroxide | 0.036M, 5 ml | FC(C(=O)OOC(C(C(F)(F)F)(F)F)=O)(C(F)(F)F)F | C6F10O4
reactant | ethylene | 14 g | C=C | C2H4
reactant | tetrafluoroethylene | 50 g | FC(=C(F)F)F | C2F4
reactant | bis(perfluoro-n-butyl) sulfide | FC(C(C(C(F)(F)F)(F)F)(F)F)(F)SC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C8F18S
product | Bis(perfluoro-n-butyl) Sulfide H2O | 18.7 g, 29% | FC(C(C(C(F)(F)F)(F)F)(F)F)(F)SC(C(C(C(F)(F)F)(F)F)(F)F)(F)F.O | InChI=1S/C8F18S.H2O/c9-1(10,5(17,18)19)3(13,14)7(23,24)27-8(25,26)4(15,16)2(11,12)6(20,21)22;/h;1H2
